US08802659B2
(6-(spiro[4.5]decan-8-yloxy)naphthalen-2-yl)methanol
6-(Spiro[4.5]dec-8-yloxy)-naphthalene-2-carboxylic acid methyl ester (0.312 g, 0.000922 mol) in tetrahydrofuran (9 mL, 0.1 mol) and 1.0 M of lithium tetrahydroaluminate in tetrahydrofuran (2.76 mL, 0.00276 mol) was added at 0° C. After stirring at rt for 2 h, quench with EtOAc, then Rochele's salt was added and stirred at rt for 1 h. Extraction with EtOAc, c/c give the product as a white solid (257.2 mg, 90%). LCMS Rt=2.21 min m/z=293.30 ([M-17], 100%).

reactant | 6-(Spiro[4.5]dec-8-yloxy)-naphthalene-2-carboxylic acid methyl ester | 0.000922 mol, 0.312 g | COC(=O)C1=CC2=CC=C(C=C2C=C1)OC1CCC2(CCCC2)CC1 | C22H26O3
reactant | tetrahydrofuran | 0.1 mol, 9 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 0.00276 mol, 2.76 mL | O1CCCC1 | C4H8O
solvent | lithium tetrahydroaluminate | 1.0 M | [AlH4-].[Li+]
product | (6-(spiro[4.5]decan-8-yloxy)naphthalen-2-yl)methanol | 257.2 mg, 90% | C1CCCC12CCC(CC2)OC=2C=C1C=CC(=CC1=CC2)CO | C21H26O2
